US05602277
To a mixture of ethyl α-(2-acetylamino-5-methoxycarbonylphenyl)acetate (4.18 g, 0.015 mol) in methanol (60 mL), 1N sodium hydroxide (15.0 mL, 0.015 mol) was added over a period of 10 min. The mixture was stirred at room temperature for 1 h. After dilution with water (50 mL), the mixture was filtered and the filtrate neutralized with concentrated hydrochloric acid. The precipitate obtained was collected by filtration and washed with water. The cake was recrystallized from ethyl acetate and dried to give 2.3 g (61%) of α-(2-acetylamino-5-methoxycarbonylphenyl)acetic acid as a white solid, mp 194° C.

reactant | ethyl α-(2-acetylamino-5-methoxycarbonylphenyl)acetate | 0.015 mol, 4.18 g | C(C)(=O)NC1=C(C=C(C=C1)C(=O)OC)CC(=O)OCC | C14H17NO5
reactant | sodium hydroxide | 0.015 mol, 1N, 15.0 mL | [OH-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | α-(2-acetylamino-5-methoxycarbonylphenyl)acetic acid | 2.3 g, 61% | C(C)(=O)NC1=C(C=C(C=C1)C(=O)OC)CC(=O)O | C12H13NO5
